US05726306
(2) 2-amino-5-chloro-2',4',-6'-trimethoxybenzophenone
A mixture of 4.7 g of 2-acetylamino-5-chloro-2',4',6'-trimethoxybenzophenone, 50 ml of 6N hydrochloric acid and 50 ml of ethanol was refluxed for 1 hour while heating. After the solvent was distilled off, the residue was basefied with an aqueous solution of sodium hydrogen carbonate and then extracted with ethyl acetate. After the extract was washed with water and dried, the solvent was removed, and the residue was subjected to silica gel column chromatography to yield 3.75 g of a crystal.

reactant | 2-acetylamino-5-chloro-2',4',6'-trimethoxybenzophenone | 4.7 g | C(C)(=O)NC1=C(C(=O)C2=C(C=C(C=C2OC)OC)OC)C=C(C=C1)Cl | C18H18ClNO5
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-amino-5-chloro-2',4',-6'-trimethoxybenzophenone | 3.75 g | NC1=C(C(=O)C2=C(C=C(C=C2OC)OC)OC)C=C(C=C1)Cl | C16H16ClNO4
